US04260751
126.3 g of 5-hydroxy-1-(2-nitrophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester is dissolved in 1.6 liter methanol and 1.2 g Pd/C (10%) are added and hydrogenation is performed until H2 -uptake is finished (12 hours). After filtration the solvent is distilled off and the crystalline residue is recrystallized from dimethylformamide/ethanol to yield 78 g of 1-(2-aminophenyl)-5-hydroxy-1H-pyrazole-4-carboxylic acid, ethyl ester as white powder having a melting point of 151°-154° C.

reactant | 5-hydroxy-1-(2-nitrophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester | 126.3 g | OC1=C(C=NN1C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC | C12H11N3O5
solvent | methanol | 1.6 liter | CO | CH4O
catalyst | Pd/C | 1.2 g | [Pd] | Pd
product | 1-(2-aminophenyl)-5-hydroxy-1H-pyrazole-4-carboxylic acid, ethyl ester | 78 g | NC1=C(C=CC=C1)N1N=CC(=C1O)C(=O)OCC | C12H13N3O3
